US07842696B2
To a stirred solution of 6-benzyloxy-nicotinonitrile (100 mg, 0.47 mmol) in a mixture of EtOH (5 mL) and water (5 mL), was added NaOH (95.1 mg, 2.3 mmol) and the resulting mixture was stirred at 90° C. for 20 hrs. The mixture was evaporated under reduced pressure. The residue was diluted with cold water, adjusted the pH to 3 and extracted with EtOAc. The organic layer was washed with saturated brine solution and dried over Na2SO4. The organic layer was then concentrated under reduced pressure to afford 105 mg (96% yield) of 6-benzyloxy-nicotinic acid.

reactant | 6-benzyloxy-nicotinonitrile | 0.47 mmol, 100 mg | C(C1=CC=CC=C1)OC1=NC=C(C#N)C=C1 | C13H10N2O
reactant | NaOH | 2.3 mmol, 95.1 mg | [OH-].[Na+]
reactant | water | 5 mL | O | H2O
solvent | EtOH | 5 mL | CCO | C2H6O
product | 6-benzyloxy-nicotinic acid | 105 mg, 96% yield | C(C1=CC=CC=C1)OC1=NC=C(C(=O)O)C=C1 | C13H11NO3
